### PR TITLE
Finality Inspector - Equivocators lower bound.

### PR DESCRIPTION
**Pull request by mcalancea**
This PR introduces a proof connecting the presence of a certain substructure (called a "k-q committee" or a "k-q antiplex") in the message graph with a bound on the number of equivocators which can be proven when members of this structure diverge from their decision. More details available in the internal document concerning the proof.

### CODE REVIEW

File: VLSM/FinalityInspector/Inspector.v [hunk 1]
```diff
@@ -0,0 +1,2286 @@
...
+        (value : C)
+        (q : nat)
+        (sm1 sm2 : Cm) 
+        (l : list Cm)
+        (Hincl : sm1 ⊆ sm2)
+        (Hdensity : density sm1 sm2 q)
+        (Hconv : convexity sm1)
+        (Hgood : valid_com_prop relSet c0 value q (sm2 :: l)) : valid_com_prop relSet c0 value q (sm1 :: (sm2 :: l)).
+    
+    Definition committee : Type := {
```
Comment (palmskog) [inline VLSM/FinalityInspector/Inspector.v:861]: Since the concept is called "k-q committee", maybe you want to use this name here as well? Or at least I would advise adding the name as a comment with a quick reference to wherever the concept was first defined.

File: VLSM/FinalityInspector/Inspector.v [hunk 2]
```diff
@@ -0,0 +1,2286 @@
...
+        intros c Hc.
+        destruct IHHvcom as [_ [_ IHH]].
+        simpl in Hc.
+        assert (Hsm2 : sm2 ⊆ c1) by (specialize (IHH sm2); intuition).
+        destruct Hc as [Hc|Hc]; (clear -Hsm2 Hc IHH Hincl; set_solver). 
+    Qed.
+    
+    Local Open Scope Z_scope.
+    
+    Theorem main
```
Comment (palmskog) [inline VLSM/FinalityInspector/Inspector.v:921]: Can we get a more informative name than just "main" here? Ideally, there would be a comment summarizing what the result states in English as well.

File: VLSM/FinalityInspector/Inspector.v [hunk 3]
```diff
@@ -0,0 +1,2286 @@
...
+        (exists m'',  
+        m'' ∈ (downSet m') /\ 
+        m'' ∈ top))
+      (u : message)
+      (Hu_P : Pdown u)
+      (Hu_minimal : is_minimal_wrt_P u Pdown)
+      (Au := A u (Some value) c0) :
+      (size Au) * (2 ^ k) >=  
+      (2 * q - n) * (2 ^ k - 1).
+    Proof.
```
Comment (palmskog) [inline VLSM/FinalityInspector/Inspector.v:949]: This proof is more than 2000 lines long, which will likely make it very hard to maintain. Please consider if there is some way to break it up into more lemmas, or if you can use custom tactics to shrink some lines of reasoning into fewer lines of Ltac.

**Review by palmskog — CHANGES_REQUESTED** [review]
This looks good in general, but to make it more maintainable, some factoring and comments are needed.

**Review by palmskog — APPROVED** [review]
